US09145392B2
5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-piperidin-1-yl-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine (“61”)
The title compound was prepared in an analogous manner as 5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using 1-(2-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)ethyl)piperidine instead of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine. LC-MS: (M+1=596, obsd.=596).

reactant | 5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C20H19BrF4N6
reactant | 1-(2-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)ethyl)piperidine | FC1=C(C=C(C=C1)C=1N=C(N(C1)CCN1CCCCC1)C1CCNCC1)C(F)(F)F | C22H28F4N4
product | 5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-piperidin-1-yl-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN1CCCCC1)N | C26H30BrF4N7
